US05965741
3,5-Dibromo-2-hydroxybenzaldehyde
Hexamine (3.35 g, 23.92 mmol) was added portionwise to trifluoroacetic acid (25 ml) keeping the temperature below 40° C. with a water bath. 2,4-Dibromophenol was then added slowly and the reaction mixture heated at 80° C. for 31/2 hours. The reaction mixture was cooled, partially evaporated and then poured into ice/water. This mixture was stirred at ambient temperature overnight and the precipitate that formed filtered, dried and purified by chromatography (CH2Cl2 /hexane) to give the title compound (2.1 g).

reactant | Hexamine | 23.92 mmol, 3.35 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,4-Dibromophenol | BrC1=C(C=CC(=C1)Br)O | C6H4Br2O
product | 3,5-Dibromo-2-hydroxybenzaldehyde | 2.1 g | BrC=1C(=C(C=O)C=C(C1)Br)O | C7H4Br2O2
